US07572808B2
E. Preparation of 8-bromo-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirred mixture of 8-bromo-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (3.24 g, 10.0 mmol) in DMF (15 mL) at room temperature under argon was added K2CO3 (2.76 g, 20.0 mmol) and 3-(chloromethyl)-6-(trifluoromethyl)pyridine (2.34 g, 12.0 mmol). After stirring at room temperature for 3 d, HPLC indicated approximately 70% complete reaction. The mixture was then heated to 60° C. for 5 h, after which HPLC indicated complete reaction. The mixture was cooled to room temperature, diluted with water (100 mL), and stirred for 1 h. Solid was collected by filtration and washed with water (10 mL×5), then methanol (5 mL×2), and finally dried under vacuum. The title compound (4.4 g) was obtained as a yellow solid. HPLC/MS: retention time=3.8 min, [M+H]+=485.

reactant | 8-bromo-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 10.0 mmol, 3.24 g | BrC=1C=2N(C=CC1C1=CC=C(C=C1)Cl)C(NN2)=O | C12H7BrClN3O
reactant | K2CO3 | 20.0 mmol, 2.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-(chloromethyl)-6-(trifluoromethyl)pyridine | 12.0 mmol, 2.34 g | ClCC=1C=NC(=CC1)C(F)(F)F | C7H5ClF3N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 8-bromo-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 4.4 g | BrC=1C=2N(C=CC1C1=CC=C(C=C1)Cl)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C19H11BrClF3N4O
